US06844345B2
b) (R)-6-Ethyl-8-fluoro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
6.2 g (R)-6-bromo-8-fluoro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one was dissolved in 150 ml N,N-dimethylformamide under argon. 1.43 g (Dppf)PdCl2, 39 g caesium carbonate and 41.6 ml of a 1M solution of triethylborane in tetrahydrofuran were added. The mixture was heated 15 h at 50° C., allowed to cool to room temperature and poured into water. The aqueous mixture was extracted with ethyl acetate. The combined organic phases washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on reversed phase silica gel (6:4 to 3:7 water/methanol) to afford the title product as an off-white solid. Yield: 1.8 g. ISP-MS: m/e 247.3 ([M+H]+).

reactant | (R)-6-bromo-8-fluoro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 6.2 g | BrC1=CC(=CC=2C=C3N(C12)[C@@H](CNC3=O)C)F | C12H10BrFN2O
reactant | caesium carbonate | 39 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triethylborane | C(C)B(CC)CC | C6H15B
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (R)-6-Ethyl-8-fluoro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | C(C)C1=CC(=CC=2C=C3N(C12)[C@@H](CNC3=O)C)F | C14H15FN2O
